US08217028B2
DMF (0.389 mL) was added dropwise to a solution of oxalyl chloride (0.440 mL) in dry dichloromethane (5 mL) at 0° C. The resulting solution was stirred at 0° C. for 10 min. A solution of 1H-indole-6-carbonitrile (D12) (0.650 g) in dry dichloromethane (5 mL) was added to the reaction mixture. The reaction mixture was warmed to RT and stirred at that temperature for 45 min. The solvent was evaporated. THF (50 mL) was added, followed by addition of aqueous NaOH (2 M, 50 mL) and water (200 mL). The biphasic mixture was allowed to stand for 10 min. EtOAc (300 mL) and water (100 mL) was added. The organic fraction was separated and was dried over anhydrous magnesium sulfate. The dried solution was concentrated to afford 3-formyl-1H-indole-6-carbonitrile (D13) as a orange solid (604 mg). δH (DMSO-d6, 400 MHz): 7.59 (1H, dd), 8.05 (1H, d), 8.24 (1H, m), 8.56 (1H, s), 10.00 (1H, s), 12.62 (1H, br s). MS (ES): C10H6N2O requires 170; found 169.0 (M−H+).

reactant | DMF | 0.389 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.440 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1H-indole-6-carbonitrile | 0.650 g | N1C=CC2=CC=C(C=C12)C#N | C9H6N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-formyl-1H-indole-6-carbonitrile | 604 mg | C(=O)C1=CNC2=CC(=CC=C12)C#N | C10H6N2O
